US06552022B1
4′-Isopropyl-5-methyl-biphenyl-2-carboxylic Acid [4-[4-(3-cyano-benzyl)-piperazin-1-yl]-phenyl]-amide
To a stirred solution of 4-[4-(3-cyano-benzyl)-piperazin-1-yl]-phenylamine (150 mg), 4′-isopropyl-5-methyl-biphenyl-2-carboxylic acid (127 mg), HOBt (87 mg), and Et3N (64 mg) in CH2Cl2 (10 mL) was added at room temperature EDCl (124 mg) and the mixture was stirred at room temperature for 16 hours. The organic solution was then washed with water, with a saturated solution of NaHCO3 and dried over Na2SO4. After filtration and evaporation of the filtrate, the oily residue was crystallized from EtOH to give the title compound (160 mg) as white crystals.

reactant | 4-[4-(3-cyano-benzyl)-piperazin-1-yl]-phenylamine | 150 mg | C(#N)C=1C=C(CN2CCN(CC2)C2=CC=C(C=C2)N)C=CC1 | C18H20N4
reactant | 4′-isopropyl-5-methyl-biphenyl-2-carboxylic acid | 127 mg | C(C)(C)C1=CC=C(C=C1)C=1C(=CC=C(C1)C)C(=O)O | C17H18O2
reactant | HOBt | 87 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 124 mg | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 64 mg | CCN(CC)CC | C6H15N
product | 4′-Isopropyl-5-methyl-biphenyl-2-carboxylic Acid [4-[4-(3-cyano-benzyl)-piperazin-1-yl]-phenyl]-amide | 160 mg | C(#N)C=1C=C(CN2CCN(CC2)C2=CC=C(C=C2)NC(=O)C=2C(=CC(=CC2)C)C2=CC=C(C=C2)C(C)C)C=CC1 | C35H36N4O
